US07166616B2
(a) 1-(4-Nitro-phenyl)-cyclopentanecarbonyl chloride
A stirred suspension of 1-(4-nitro-phenyl)-cyclopentanecarboxylic acid (8.85 g) in dry dichloromethane (100 mL) was treated with oxalyl chloride (5.0 mL) and catalytic amount dry dimethylformamide (5 drops). The mixture was stirred at room temperature, under anhydrous conditions, for 16 hours then evaporated to give the title compound as an off white solid (100%), which was used without further purification.

reactant | 1-(4-nitro-phenyl)-cyclopentanecarboxylic acid | 8.85 g | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13NO4
reactant | oxalyl chloride | 5.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
product | 1-(4-Nitro-phenyl)-cyclopentanecarbonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCCC1)C(=O)Cl | C12H12ClNO3
